US07189736B2
8. (7R,8R,9R)-8-Methoxycarbonyloxy-7-(2-methoxyethoxy)-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
A suspension of 2 g of (7R,8R,9R)-8-hydroxy-7-(2-methoxyethoxy)-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine in 30 ml of dry tetrahydrofuran is treated in small portions with 0.34 g of sodium hydride suspension (80% strength in paraffin) and stirred at room temperature for 30 minutes, then 0.66 g of methylchloroformate is added dropwise and the mixture is stirred for 3 h. It is then poured onto ice water, neutralized with semiconcentrated aqueous hydrochloric acid and extracted three times with a little ethyl acetate, and the collected organic phases are washed with a little water and dried over potassium carbonate. The volatile components are stripped off in vacuo and the solid residue is purified on silica gel (eluent: diethyl ether). 1.2 g of the title compound of melting point 176–77° C. (diethyl ether) are obtained.

reactant | (7R,8R,9R)-8-hydroxy-7-(2-methoxyethoxy)-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 2 g | O[C@@H]1[C@H](NC=2C=3N(C=CC2[C@H]1OCCOC)C(=C(N3)C)C)C3=CC=CC=C3 | C21H25N3O3
reactant | sodium hydride | 0.34 g | [H-].[Na+]
reactant | methylchloroformate | 0.66 g | COC(=O)Cl | C2H3ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (7R,8R,9R)-8-Methoxycarbonyloxy-7-(2-methoxyethoxy)-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 1.2 g | COC(=O)O[C@@H]1[C@H](NC=2C=3N(C=CC2[C@H]1OCCOC)C(=C(N3)C)C)C3=CC=CC=C3 | C23H27N3O5
